US06605620B1
Synthesis of 4-[N-(4-Bromophenyl)-N-[[3-(3,4,5-trimethoxyphenyl)pyridin-5-yl]methyl]amino]-1-(tert-butoxycarbonyl)piperidine
4-(4-Bromophenyl)amino-1-(tert-butoxycarbonyl)piperidine (711 mg) and 5-chloromethyl-3-(3,4,5-trimethoxyphenyl)pyridine (588 mg) was treated in the same manner as described in Example 9 to give light yellow amorphous of the title compound.

reactant | 4-(4-Bromophenyl)amino-1-(tert-butoxycarbonyl)piperidine | 711 mg | BrC1=CC=C(C=C1)NC1CCN(CC1)C(=O)OC(C)(C)C | C16H23BrN2O2
reactant | 5-chloromethyl-3-(3,4,5-trimethoxyphenyl)pyridine | 588 mg | ClCC=1C=C(C=NC1)C1=CC(=C(C(=C1)OC)OC)OC | C15H16ClNO3
product | 4-[N-(4-Bromophenyl)-N-[[3-(3,4,5-trimethoxyphenyl)pyridin-5-yl]methyl]amino]-1-(tert-butoxycarbonyl)piperidine | BrC1=CC=C(C=C1)N(CC=1C=C(C=NC1)C1=CC(=C(C(=C1)OC)OC)OC)C1CCN(CC1)C(=O)OC(C)(C)C | C31H38BrN3O5
